US07968570B2
4-Bromo-2-methoxy-6-methylbenzoic acid
4-Bromo-2-methoxy-6-methylbenzamide (2.0 g, 8.2 mmol), dissolved in CH2Cl2, was added dropwise to nitrosyl sulfuric acid (14.0 mL) in water (6.0 mL) at 0° C. and stirred for 2 hours. The reaction mixture was poured over ice and extracted with CH2Cl2, and the solvent was removed under reduced pressure to afford a light pink solid (1.93 g, 96%). 1H NMR (300 MHz, CDCl3): δ 7.07 (s, 1H), 7.00 (s, 1H), 3.93 (s, 3H), 2.46 (s, 3H).

reactant | 4-Bromo-2-methoxy-6-methylbenzamide | 8.2 mmol, 2.0 g | BrC1=CC(=C(C(=O)N)C(=C1)C)OC | C9H10BrNO2
reactant | nitrosyl sulfuric acid | 14.0 mL | N(=O)OS(O)(=O)=O | HNO5S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | 6.0 mL | O | H2O
product | 4-Bromo-2-methoxy-6-methylbenzoic acid | 1.93 g, 96% | BrC1=CC(=C(C(=O)O)C(=C1)C)OC | C9H9BrO3
